US07501425B1
N-Allyl-4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxamide
To a 0° C. suspension of 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid chloride in 10 mL of tetrahydrofuran is added 3.5 mL (46.2 mmol) of allylamine and 20 mL of tetrahydrofuran. The reaction suspension is allowed to warm briefly to room temperature, then stored at 0° C. overnight. The reaction mixture is diluted with ethyl acetate, washed with 1N HCl, a saturated solution of sodium bicarbonate, and brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated to give 2.1 g (51%) of the title compound:

reactant | 4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxylic acid chloride | C(C)(C)NC1=NC(=NC=C1C(=O)Cl)SC | C9H12ClN3OS
reactant | allylamine | 46.2 mmol, 3.5 mL | C(C=C)N | C3H7N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-Allyl-4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxamide | 2.1 g, 51% | C(C=C)NC(=O)C=1C(=NC(=NC1)SC)NC(C)C | C12H18N4OS
